US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(3-fluoropropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (50 mg, 0.103 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour and concentrated to dryness. The residue was then purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 0-50% CH3CN/water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirred solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give the product (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-fluoro-propanamide hydrochloride (0.018 g, 38% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.24 (s, 1H), 7.29 (s, 1H), 4.77-4.73 (m, 1H), 4.66-4.65 m, 1H), 3.73-3.70 (m, 1H), 3.54-3.50 (m, 1H), 3.32-3.29 (m, 1H), 3.21-3.16 (m, 2H), 2.85-2.84 (m, 1H), 2.79-2.77 (m, 1H), 2.04-2.02 (m, 1H), 1.79-1.76 (m, 1H), 1.67-1.65 (m, 1H), 1.56-1.53 (m, 1H). LCMS (APCI+) m/z 384, 386 (M+H)+.

reactant | (R)-tert-Butyl 1-(5-bromo-3-(3-fluoropropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.103 mmol, 50 mg | BrC=1C(=C2C(=NC1)NC=C2NC(CCF)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C20H27BrFN5O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-fluoro-propanamide hydrochloride | 0.018 g, 38% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(CCF)=O | InChI=1S/C15H19BrFN5O.ClH/c16-10-6-19-15-13(11(7-20-15)21-12(23)3-4-17)14(10)22-5-1-2-9(18)8-22;/h6-7,9H,1-5,8,18H2,(H,19,20)(H,21,23);1H/t9-;/m1./s1
